data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1ccc(OC)cc1_2-C=C","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(OC)cc1Br","C=C[Mg]Br"],"products_smiles": ["c1ccc(OC)cc1C=C"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(OC)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(OC)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(OC)cc1)C=C","rationale": "The nucleophilic C=C–MgBr transfers C=C to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(OC)cc1C=C","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(OC)cc1 and C=C, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-061_1-C(C)(C)C_2-C(F)(F)F","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(C)(C)C)C(=O)CCCC(=O)O(C(F)(F)F)"],"products_smiles": ["O(C(C)(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C)(C)C)C(=O)[CH-]CCCC(=O)O(C(F)(F)F)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(C)(C)C)C(=O)C1C([O-])(O(C(F)(F)F))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(C)(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
